US04463177
Hexahydro-3-(3-hydroxyphenyl)-1-methyl-2H-azepin-2-one
Using chloroform as solvent. A solution of 3-(2-chloro-3-oxocyclohex-1-enyl)-hexahydro-1-methylazepin-2-one (5.12 g) in chloroform (50 ml) was treated with 48% HBr in acetic acid (2 ml). After 12 hours the organic solvent was removed under reduced pressure and the residue triturated with aqueous ammonia to yield the title compound m.p. 192°-3° C. (EtOAc).

reactant | 3-(2-chloro-3-oxocyclohex-1-enyl)-hexahydro-1-methylazepin-2-one | 5.12 g | ClC1=C(CCCC1=O)C1C(N(CCCC1)C)=O | C13H18ClNO2
reactant | HBr | Br | BrH
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
solvent | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
product | Hexahydro-3-(3-hydroxyphenyl)-1-methyl-2H-azepin-2-one | OC=1C=C(C=CC1)C1C(N(CCCC1)C)=O | C13H17NO2
